US07592477B2
A mixture of 1-bromo-4-methylnaphthaline (25 g, 0.113 mol), NBS (22.2 g, 0.123 mol) and benzoylperoxide (5 g) in CCl4 (750 mL) was refluxed for 5 h. The reaction mixture was cooled, filtered off the succinimide and concentrated to give crude bromide (34 g) and used for the next reaction without any purification. To a cold (−40° C.) solution of liquid ammonia (2 L) was added 1-bromo-4-bromomethyl naphthaline (crude 34 g) dissolved in 200 mL of CH2Cl2 over a period of 45 min. The reaction mixture was then stirred at −40° C. for 18 h. The reaction mixture was then allowed to stir at RT and concentrated under vacuum to give yellow residue. The residue was then treated with 3N HCl (250 mL), filtered off the solid obtained and washed with CH2Cl2 (2×250 mL). The solid was dried under vacuum to give (4-bromo-1-naphthyl)methylamine hydrochloride (25 g, 80%). HPLC purity: 96.6%

reactant | ammonia | 2 L | N | H3N
reactant | 1-bromo-4-bromomethyl naphthaline | BrC1=CC=C(C2=CC=CC=C12)CBr | C11H8Br2
reactant | HCl | 3N, 250 mL | Cl | ClH
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (4-bromo-1-naphthyl)methylamine hydrochloride | 25 g, 80% | Cl.BrC1=CC=C(C2=CC=CC=C12)CN | InChI=1S/C11H10BrN.ClH/c12-11-6-5-8(7-13)9-3-1-2-4-10(9)11;/h1-6H,7,13H2;1H
